US09085534B2
Preparation 63A: 1-(6-methyl-3,4-dihydro-2H-chromen-4-yl)methanamine
To a solution of 1-(6-methyl-2H-chromen-4-yl)methanamine hydrochloride (700 mg, 3.3 mmol) in MeOH (20 mL) and AcOH (2 mL) under N2 was added 10% Pd/C (70 mg) at rt. The suspension was stirred at rt overnight under 50 psi of H2. The reaction was filtered and concentrated. The residue was dissolved in EtOAc and washed with sat. Na2CO3, and the organics were concentrated to give 400 mg (68%) of the title compound as a yellow oil. 1H NMR (300 MHz, CDCl3): δ 1.98-2.09 (2H, m), 2.28 (3H, s), 2.80-2.83 (1H, m), 2.88-2.96 (1H, m), 3.09 (1H, dd, J=4.5, 12.6 Hz), 4.17 (2H, t, J=6.3 Hz), 6.73 (1H, d, J=8.4 Hz), 6.91-6.97 (2H, m).

reactant | 1-(6-methyl-2H-chromen-4-yl)methanamine hydrochloride | 3.3 mmol, 700 mg | Cl.CC=1C=C2C(=CCOC2=CC1)CN
solvent | MeOH | 20 mL | CO | CH4O
solvent | AcOH | 2 mL | CC(=O)O | C2H4O2
catalyst | Pd/C | 70 mg | [Pd] | Pd
product | 1-(6-methyl-3,4-dihydro-2H-chromen-4-yl)methanamine | 400 mg, 68% | CC=1C=C2C(CCOC2=CC1)CN | C11H15NO
